US04254119
To a solution of 7β-amino-3-cephem-4-carboxylic acid diphenylmethyl ester (1.10 g) in dichloromethane (120 ml) are added a solution of 2-(2-chloroacetamido-5-chloro-4-thiazolyl)-2-methoxyiminoacetic acid (1.20 g) and N,N-dicyclohexylcarbodiimide (0.80 g), and the mixture is stirred for 30 minutes at room temperature. After concentrating to remove dichloromethane, the obtained residue is treated with a small amount of ethyl acetate and filtered to remove insoluble material. The solution is concentrated in vacuo, and the residue is purified by chromatography on silica gel affording 7β-[2-methoxyimino-2-(2-chloroacetamido-5-chloro-4-thiazolyl)acetamido]-3-cephem-4-carboxylic acid diphenylmethyl ester (1.49 g). mp. 149°-151° C. when crystallized from benzene. Similarly prepared are compounds of Table 1.

reactant | 7β-amino-3-cephem-4-carboxylic acid diphenylmethyl ester | 1.10 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=CCS[C@H]2N1C([C@H]2N)=O | C20H18N2O3S
reactant | 2-(2-chloroacetamido-5-chloro-4-thiazolyl)-2-methoxyiminoacetic acid | 1.20 g | ClCC(=O)NC=1SC(=C(N1)C(C(=O)O)=NOC)Cl | C8H7Cl2N3O4S
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 7β-[2-methoxyimino-2-(2-chloroacetamido-5-chloro-4-thiazolyl)acetamido]-3-cephem-4-carboxylic acid diphenylmethyl ester | 1.49 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=CCS[C@H]2N1C([C@H]2NC(C(C=2N=C(SC2Cl)NC(CCl)=O)=NOC)=O)=O | C28H23Cl2N5O6S2
